US08071584B2
5-{5-[(Dimethylamino)methyl]-3-thienyl}-3-[(1,1-dioxidotetrahydro-3-thienyl)methyl]-1H-indole-7-carboxamide
5-bromo-3-[(1,1-dioxidotetrahydro-3-thienyl)methyl]-1H-indole-7-carboxamide (120 mg, 0.323 mmol), (5-formyl-3-thienyl)boronic acid (76 mg, 0.485 mmol, 1.5 eq), PdCl2(dppf) (23.65 mg, 0.032 mmol, 0.1 eq), potassium carbonate (134 mg, 0.970 mmol, 3 eq) were diluted in a mixture of 1,4-dioxane (3 mL) and water (1 mL), in a 2-5 mL biotage microwave reaction tube. The mixture was degassed by bubbling nitrogen through for 5 minutes and was then heated in a microwave at high absorption for 15 minutes at 120° C. The reaction was filtered through a thiol SPE cartridge (polymer labs) and was concentrated. Then a solution of 2 M dimethylamine in THF (553 mg, 1.242 mmol, 10 eq), HOAc (1 mL), NaBH(OAc)3 (263 mg, 1.242 mmol, 10 eq) were added in DMSO) (2 mL, and the reaction mixture was stirred at room temperature overnight. Then the solvent was evaporated, EtOAc and water were added, the layers were separated, and the aqueous layer extracted with EtOAc. The combined layers were washed with satured NaCl, dried, concentrated and purified by Gilson HPLC with trifluoroacetic acid buffer. The desired product fractions were combined and concentrated in an EZ2 Genevac evaporator, giving 35.3 mg (82.3%) of the title compound.

reactant | 5-bromo-3-[(1,1-dioxidotetrahydro-3-thienyl)methyl]-1H-indole-7-carboxamide | 0.323 mmol, 120 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)CC1CS(CC1)(=O)=O | C14H15BrN2O3S
reactant | (5-formyl-3-thienyl)boronic acid | 0.485 mmol, 76 mg, 1.5 eq | C(=O)C1=CC(=CS1)B(O)O | C5H5BO3S
reactant | potassium carbonate | 0.970 mmol, 134 mg, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylamine | 2 M | CNC | C2H7N
reactant | THF | 1.242 mmol, 553 mg, 10 eq | C1CCOC1 | C4H8O
reactant | NaBH(OAc)3 | 1.242 mmol, 263 mg, 10 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | HOAc | 1 mL | CC(=O)O | C2H4O2
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | 0.032 mmol, 23.65 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-{5-[(Dimethylamino)methyl]-3-thienyl}-3-[(1,1-dioxidotetrahydro-3-thienyl)methyl]-1H-indole-7-carboxamide | 35.3 mg, 82.3% | CN(C)CC1=CC(=CS1)C=1C=C2C(=CNC2=C(C1)C(=O)N)CC1CS(CC1)(=O)=O | C21H25N3O3S2
